US04801705
To a mixture of 5.0 g (22.6 mmol) of 1-[[(3,4-dihydroxyphenyl)methylene]amino]-2-imidazolidinone and 8.1 g (74.6 mmol) of chlorotrimethylsilane in 200 ml of ethyl acetate was added 7.5 g (74.6 mmol) of triethylamine. After stirring overnight at ambient temperature, the precipitate was filtered off and the filtrate evaporated in vacuo to afford 8.8 g of 1-[[[3,4-bis[(trimethylsilyl)oxy]phenyl]methylene]amino]-3-(trimethylsilyl)-2-imidazolidinone.

reactant | 1-[[(3,4-dihydroxyphenyl)methylene]amino]-2-imidazolidinone | 22.6 mmol, 5.0 g | OC=1C=C(C=CC1O)C=NN1C(NCC1)=O | C10H11N3O3
reactant | chlorotrimethylsilane | 74.6 mmol, 8.1 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | triethylamine | 74.6 mmol, 7.5 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-[[[3,4-bis[(trimethylsilyl)oxy]phenyl]methylene]amino]-3-(trimethylsilyl)-2-imidazolidinone | 8.8 g | C[Si](OC=1C=C(C=CC1O[Si](C)(C)C)C=NN1C(N(CC1)[Si](C)(C)C)=O)(C)C | C19H35N3O3Si3
